US09371448B2
was prepared according to general procedure (A), in which 25 μl n-butylamine (0.21 mmol, 1 equiv), 24 μl formalin (0.32 mmol, 1.5 equiv), 0.14 mL 3.05 M hydrochloric acid in ethanol (0.43 mmol, 2 equiv) and 54 mg (4-(diethylamino)phenyl)(pyridin-2-yl)methanone (0.21 mmol, 1 equiv) were combined in 1.0 mL acetonitrile and maintained at room temperature for 12 hours. The reaction was concentrated in vacuo and dried under high vacuum at 0.2 Torr. The resulting crude material was dissolved in 1.5 mL ethanol and stirred with 0.8 g sodium bicarbonate for 1 hour at room temperature. The resulting suspension was then filtered through a 0.2 um nylon syringe tip filter, washed with ethanol three times using 6 mL of ethanol for each wash and filtered. The combined filtrate was concentrated. The resulting crude oil was dissolved in 1.5 mL methanol and 73 mg sodium tetraphenylborate (0.21 mmol, 1 equiv) in 1.5 mL methanol was added drop wise to the oil while stirring vigorously. The heterogeneous mixture was stirred vigorously for 3 hours at room temperature until the solid became a fine suspension. The mixture was cooled to 4° C. in a refrigerator. The solid was then filtered, rinsed with methanol three times using 0.25 mL of methanol for each rinse and dried under high vacuum at 0.2 Torr to obtain 96 mg 2-butyl-1-(4-(diethylamino)phenyl)-2H-imidazo[1,5-a]pyridin-4-ium tetraphenylborate (0.15 mmol, a 70% yield) as an orange solid.

reactant | n-butylamine | 0.21 mmol, 25 μl, 1 equiv | C(CCC)N | C4H11N
reactant | formalin | 0.32 mmol, 24 μl, 1.5 equiv | C=O | CH2O
reactant | hydrochloric acid | 3.05 M, 0.14 mL | Cl | ClH
reactant | ethanol | 0.43 mmol, 2 equiv | C(C)O | C2H6O
reactant | (4-(diethylamino)phenyl)(pyridin-2-yl)methanone | 0.21 mmol, 54 mg, 1 equiv | C(C)N(C1=CC=C(C=C1)C(=O)C1=NC=CC=C1)CC | C16H18N2O
reactant | sodium tetraphenylborate | 0.21 mmol, 73 mg, 1 equiv | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
solvent | acetonitrile | 1.0 mL | C(C)#N | C2H3N
solvent | methanol | 1.5 mL | CO | CH4O
product | 2-butyl-1-(4-(diethylamino)phenyl)-2H-imidazo[1,5-a]pyridin-4-ium tetraphenylborate | 96 mg, 70% yield | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C(CCC)N1C=[N+]2C(C=CC=C2)=C1C1=CC=C(C=C1)N(CC)CC | InChI=1S/C24H20B.C21H28N3/c1-5-13-21(14-6-1)25(22-15-7-2-8-16-22,23-17-9-3-10-18-23)24-19-11-4-12-20-24;1-4-7-15-24-17-23-16-9-8-10-20(23)21(24)18-11-13-19(14-12-18)22(5-2)6-3/h1-20H;8-14,16-17H,4-7,15H2,1-3H3/q-1;+1
